US09169254B2
(Pentafluoroethyl)trimethylsilane (105 mg, 0.548 mmol) was added to a solution of 4-trifluoromethanesulfonyloxymethyl-cyclohexanecarboxylic acid benzyl ester (cis:trans=4:1) (67.0 mg, 0.176 mmol) in DME (0.88 ml) at −30° C., and tetramethylammonium fluoride (21 mg, 0.22 mmol) was then added at −30 to −27° C. over one hour. The mixture was stirred for four hours while warming from −30° C. to 0° C. and further stirred at 0° C. for one hour. Water was added to the reaction mixture, followed by extraction with dichloromethane. The organic layer was then dried over MgSO4 and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate=150/1) to give 4-(2,2,3,3,3-pentafluoro-propyl)-cyclohexanecarboxylic acid benzyl ester (cis:trans=11:1) (11.4 mg, 18%).

reactant | (Pentafluoroethyl)trimethylsilane | 0.548 mmol, 105 mg | FC(C(F)(F)F)(F)[Si](C)(C)C | C5H9F5Si
reactant | 4-trifluoromethanesulfonyloxymethyl-cyclohexanecarboxylic acid benzyl ester | 0.176 mmol, 67.0 mg | C(C1=CC=CC=C1)OC(=O)C1CCC(CC1)COS(=O)(=O)C(F)(F)F | C16H19F3O5S
reactant | tetramethylammonium fluoride | 0.22 mmol, 21 mg | [F-].C[N+](C)(C)C
reactant | Water | O | H2O
solvent | DME | 0.88 ml | COCCOC | C4H10O2
product | 4-(2,2,3,3,3-pentafluoro-propyl)-cyclohexanecarboxylic acid benzyl ester | 11.4 mg, 18% | C(C1=CC=CC=C1)OC(=O)C1CCC(CC1)CC(C(F)(F)F)(F)F | C17H19F5O2
